US06689790B2
[8-Amino-2-(5-bromo-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]-piperidin-1-yl-methanone
A solution of 20 mg (0.24 mmol) piperidine in 1 ml dioxane was treated with 0.24 ml (0.24 mmol) trimethylaluminum in toluene and stirred for 1 h at room temperature. 20 mg (0.06 mmol) 8-Amino-2-(5-bromo-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic acid methyl ester in 1 ml dioxane was added and the mixture was heated to 90° C. for 72 h. 0.5 ml 1N HCl aq. was added and the volatiles were removed. The residue was taken up in 1.5 ml formic acid and 0.5 ml methanol and purified by reversed phase preparative HPLC eluting with a gradient of acetonitrile and water. The elution solvents were evaporated to obtain 7 mg (29%) of the title compound.

reactant | piperidine | 0.24 mmol, 20 mg | N1CCCCC1 | C5H11N
reactant | trimethylaluminum | 0.24 mmol, 0.24 ml | C[Al](C)C
reactant | 8-Amino-2-(5-bromo-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridine-6-carboxylic acid methyl ester | 0.06 mmol, 20 mg | COC(=O)C=1C=C(C=2N(C1)N=C(N2)C=2OC(=CC2)Br)N | C12H9BrN4O3
reactant | HCl | 1N, 0.5 ml | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | [8-Amino-2-(5-bromo-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]-piperidin-1-yl-methanone | 7 mg, 29% | NC=1C=2N(C=C(C1)C(=O)N1CCCCC1)N=C(N2)C=2OC(=CC2)Br | C16H16BrN5O2
